US09216964B2
A mixture containing 5-bromo-1,2,3,4-tetrahydroisoquinoline hydrochloride (249 mg, 1 mmol), (R)-(+)-2,2-dimethyl 1,3-dioxolane-4-carboxyaldehyde (260 mg, 2 mmol), DIEA (0.2 ml, 1 mmol) and Na(OAc)3BH (440 mg, 2 mmol) in THF (1 ml) is heated at 45° C. for 18 hours. After cooling to room temperature, the reaction mixture is diluted with ethyl acetate. The organic layer is washed with saturated aqueous NaHCO3 solution, water, brine, dried over MgSO4 and concentrated to dryness by rotary evaporation. The crude product is purified by silica gel flash chromatography, eluted with 30% ethyl acetate in dichloromethane to yield (S)-5-Bromo-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1,2,3,4-tetrahydroisoquinoline as a brown oil. LC-MS m/z: 326.1 (M+1).

reactant | 5-bromo-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1 mmol, 249 mg | Cl.BrC1=C2CCNCC2=CC=C1
reactant | DIEA | 1 mmol, 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Na(OAc)3BH | 2 mmol, 440 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-5-Bromo-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1,2,3,4-tetrahydroisoquinoline | BrC1=C2CCN(CC2=CC=C1)C[C@@H]1OC(OC1)(C)C | C15H20BrNO2
